US08017635B2
Step A Synthesis of tert-butyl 2-(4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy)acetate as an intermediate
A mixture of 0.5 gram (0.0017 mole) of 4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenol (known compound), 0.26 gram (0.0019 mole) of potassium carbonate and 0.26 gram (0.0017 mole) of tert-butyl chloroacetate in 0.12 mL of DMF was heated to 70° C. where it stirred for about 18 hours. After this time the reaction mixture was allowed to cool to ambient temperature. The reaction mixture was diluted with 30 mL of water then extracted with three 30 mL portions of ethyl acetate. The combined extracts were dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a yellow oil. The crude oil was purified with column chromatography on silica gel using a mixture of hexanes and ethyl acetate (93:7) as an eluant. The appropriate fractions were combined and concentrated under reduced pressure, yielding 0.7 gram of the subject compound.

reactant | 4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenol | 0.0017 mole, 0.5 gram | ClC(=CCOC1=CC(=C(C(=C1)Cl)O)Cl)Cl | C9H6Cl4O2
reactant | potassium carbonate | 0.0019 mole, 0.26 gram | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl chloroacetate | 0.0017 mole, 0.26 gram | ClCC(=O)OC(C)(C)C | C6H11ClO2
solvent | DMF | 0.12 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
product | tert-butyl 2-(4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy)acetate | 0.7 gram | ClC(=CCOC1=CC(=C(OCC(=O)OC(C)(C)C)C(=C1)Cl)Cl)Cl | C15H16Cl4O4
